US06787652B1
2-(3-Chloro-4-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5-dione
To a cooled (0° C.), stirred solution of 2-{3-chloro-4-[3-(4-fluoro-benzoyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione (0.4 g) in methanol (10 mL) was added sodium borohydride (32 mg). After 30 min, the reaction solution was concentrated in vacuo, partitioned between 1N hydrochloric acid and ethyl acetate, the organic phase dried (Na2SO4), concentrated in vacuo and flash chromatographed on silica gel (5% ethanol/dichloromethane) to afford the title compound of Step C as a colorless foam, 72 mg. MS Calc.:469.8; Found:467.9.

reactant | 2-{3-chloro-4-[3-(4-fluoro-benzoyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | 0.4 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C1=CC=C(C=C1)F)=O)C)N1N=CC(NC1=O)=O | C23H15ClFN3O5
reactant | sodium borohydride | 32 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-(3-Chloro-4-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(O)C1=CC=C(C=C1)F)C)N1N=CC(NC1=O)=O | C23H17ClFN3O5
